2134-02-10 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cardioversion restored sinus rhythm
   - stool positive for C. diff; started on PO vancomycin
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefipime - [**2134-2-8**] 04:00 PM
   Metronidazole - [**2134-2-9**] 08:25 AM
   Ceftriaxone - [**2134-2-9**] 12:00 PM
   Vancomycin - [**2134-2-10**] 06:13 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2134-2-9**] 09:59 AM
   Propofol - [**2134-2-9**] 05:30 PM
   Pantoprazole (Protonix) - [**2134-2-9**] 08:09 PM
   Midazolam (Versed) - [**2134-2-10**] 02:20 AM
   Fentanyl - [**2134-2-10**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-2-10**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.6
   HR: 96 (83 - 129) bpm
   BP: 98/67(81) {76/41(52) - 152/94(118)} mmHg
   RR: 14 (7 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 335 (7 - 335)mmHg
   Total In:
                                                                  1,774 mL
                                                                    496 mL
   PO:
   TF:
                                                                    570 mL
                                                                    277 mL
   IVF:
                                                                  1,104 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,494 mL
                                                                    208 mL
   Urine:
                                                                  1,494 mL
                                                                    208 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                    288 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 378 (378 - 378) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.31/23/159/20/-12
   Ve: 8.8 L/min
   PaO2 / FiO2: 398
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   7.9 g/dL
   141 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.2 mEq/L
   25 mg/dL
   113 mEq/L
   140 mEq/L
   23.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2134-2-7**]  09:21 PM
                            [**2134-2-8**]  12:33 AM
                            [**2134-2-8**]  05:00 AM
                            [**2134-2-8**]  01:04 PM
                            [**2134-2-8**]  05:45 PM
                            [**2134-2-9**]  02:50 AM
                            [**2134-2-9**]  03:06 AM
                            [**2134-2-9**]  09:31 AM
                            [**2134-2-9**]  01:40 PM
                            [**2134-2-10**]  04:30 AM
   WBC
   13.7
   11.0
   9.1
   Hct
   25.8
   23.7
   23.9
   Plt
   [**Telephone/Fax (3) 3647**]
   Cr
   1.8
   1.7
   1.6
   1.4
   TCO2
   25
   24
   20
   16
   18
   12
   Glucose
   155
   194
   177
   141
   Other labs: PT / PTT / INR:33.0/30.2/3.4, CK / CKMB /
   Troponin-T:45//<0.01, ALT / AST:103/83, Alk Phos / T Bili:75/0.2,
   Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:190 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   82F w/ pmh HTN, afib, p/w bradycardia and hypotension in setting of
   likely beta blocker or calcium channel blocker overdose.
   .
   #Hypotension: Differential includes BB or CCB toxicity vs. septic
   shock. Transitioned to levophed overnight, currently weaning off.  On
   broad spectrum abx.
   -Goal MAP > 60
   -wean levophed.
   .
   #Respiratory status:On AC overnight. SBT this am with RSBI 40, will
   attempt extubation today.
   -SBT
   -Extubate
   .
   #Acute Renal Failure/anuria: Initially anuric with elevated Creatinine,
   creatinine has decreased with fluid administration, and Urine oupu has
   been fluid responsive.  LOS fluid balance is 6600cc.  Will check UA, U
   lytes. Diurese with lasix today, as patient is fluid overloaded.
   -lasix, goal 500CC negative
   -UA
   -u lytes
   .
   #fever: Sputum with >25 PMNs, 1+ Gram positive cocci, and 1+ gram neg
   rods. CXR with persistent right hilar consolidation. s/p one dose of
   vancomycin.  UA on admission growing enterococcus, UA not collected [**3-14**]
   low urine output. Switched to ceftriaxone and azithromycin.  .
   -ceftriaxone, azithromycin
   -vancomycin for enterococcus
   -f/u blood, urine, sputum Cx
   -legionella urinary antigen
   -chest CT, has persistent right hilar consolidation.
   .
   #Atrial Fibrillation: RVR overnight, given diltiazem 20mg IV followed
   by 60mg PO.  Will start on Metoprolol today.
   -discontinue diltiazem
   -start metoprolol
   .
   #Transaminitis:ALT 154, AST 234, new during this admission. Possibly
   from hepatic toxicity as metoprolol, diltiazem, and nifedipine are
   metabolized by liver. [**Month (only) 8**] also be due to hepatic ischemia from
   hypotension.
   -trend daily
   .
   # CORONARIES:  No history of CAD. Precordial ST depressions present on
   ekg upon admission to CCU.  Likely subendocardial ischemia in setting
   of hypotension and low systemic diastolic pressures.
   -cardiac enzymes negative.
   .
   # PUMP:Recent echo on [**1-5**] with normal LV and RV function, without
   wall motion abnormalities, LVEF 55%. Previously hypotensive in setting
   of bradycardia from likely BB or CCB toxicity.
   .
   # RHYTHM:History of atrial fibrillation on coumadin, metoprolol, and
   diltiazem.   Held metoprolol and diltiazem in setting over overdose.
   Once pressure tolerates will restart metoprolol and diltiazem.
   -hold metoprolol, diltiazem in setting of overdose.
   -hold coumadin in setting of supratherapeutic INR
   .
   #Hypertension:.
   -holding, diltiazem, nifedipine, HCTZ
   .
   #Hyperlipidemia:holding lipitor in setting of transaminitis.
   .
   #FEN:  NPO, replete K, Mg, PO4
   ACCESS: PIV's and RIJ placed in ED [**2-7**]
   PROPHYLAXIS:
   -DVT ppx being held in setting of INR 2.9
   -Pain managment with fentanyl
   -Bowel regimen  colace, senna
   CODE: full
   DISPO: CCU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2134-2-10**] 04:54 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-2-7**] 06:52 PM
   18 Gauge - [**2134-2-7**] 06:54 PM
   20 Gauge - [**2134-2-7**] 08:44 PM
   Arterial Line - [**2134-2-8**] 12:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-02-14 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2134-2-14**] 02:30 AM
   - patient agitated, crawling out of bed, yelling at 2100.  She was
   given Haldol 2.5 mg IV x 2 with minimal effect.  EKG showed QTc 450.
   She was then given Ativan 1 mg IV after which she fell asleep.
   - After falling asleep, she was unable to take PO meds.  Lopressor 75
   mg was due at 2400, and HR high 90's (sinus), so she was given 5 mg IV
   lopressor x 2.
   - During her episode of agitation and continuing after she calmed down,
   RR was in the mid-20's.  Lungs had crackles, and repeat CXR showed
   unchanged to slightly worse fluid overload.  She was given 40 mg IV
   lasix.  UOP was ~1.5 L over 3 hours.
   - PM K 3.0
given 40 mEq IV K
K 4.0
   - ~0200 converted to afib, HR 90s, hemodynamically stable
   - 0500 potassium 2.7
given 80 IV
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2134-2-11**] 06:15 PM
   Azithromycin - [**2134-2-12**] 08:00 AM
   Ceftriaxone - [**2134-2-12**] 12:00 PM
   Linezolid - [**2134-2-13**] 06:00 PM
   Metronidazole - [**2134-2-14**] 04:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-2-14**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 89 (67 - 99) bpm
   BP: 105/38(54) {93/38(51) - 147/78(95)} mmHg
   RR: 22 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  1,520 mL
                                                                    160 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                  1,290 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  1,780 mL
   Urine:
                                                                  2,140 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                 -1,620 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GENERAL: WDWN elderly female lying in bed, intermittently agitated and
   argumentative
   HEENT: NCAT. Sclera anicteric. Pupils dilated to 6mm and non-reactive.
   Contarct repalcment lenses in place. Oral mucosa dry.
   NECK: JVP unable to assess given RIJ.
   CARDIAC: regular rhythm.  Normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: No chest wall deformities, unlabored respirations, crackles
   diffusely.
   ABDOMEN: Soft, nontender.  Bowel sounds normoactive.
   EXTREMITIES: Symmetrical upper extremity nonpitting edema.  1+ LE
   edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  DP and PT 1+
   Left: Carotid 2+  DP and PT 1+
   Labs / Radiology
   351 K/uL
   7.6 g/dL
   123 mg/dL
   1.2 mg/dL
   24 mEq/L
   2.7 mEq/L
   15 mg/dL
   107 mEq/L
   139 mEq/L
   23.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2134-2-11**]  11:07 AM
                             [**2134-2-11**]  04:16 PM
                             [**2134-2-12**]  12:29 AM
                             [**2134-2-12**]  05:56 AM
                             [**2134-2-12**]  12:30 PM
                             [**2134-2-12**]  04:55 PM
                             [**2134-2-13**]  05:20 AM
                             [**2134-2-13**]  04:18 PM
                             [**2134-2-14**]  02:58 AM
                             [**2134-2-14**]  04:54 AM
   WBC
   9.1
   11.8
   11.3
   8.1
   Hct
   24.0
   25.6
   27.0
   23.0
   Plt
   [**Telephone/Fax (3) 3768**]51
   Cr
   1.2
   1.2
   1.2
   1.2
   1.4
   1.2
   TCO2
   19
   22
   23
   22
   Glucose
   102
   158
   159
   128
   206
   123
   Other labs: PT / PTT / INR:35.7/28.7/3.8, CK / CKMB /
   Troponin-T:45//<0.01, ALT / AST:25/16, Alk Phos / T Bili:70/0.2, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:166 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN ELIMINATION RELATED TO [**Telephone/Fax (3) 3779**]
 BRADYCARDIA
 SHOCK, SEPTIC
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 LEUKOCYTOSIS
 HYPOGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
   82F w/ pmh HTN, afib, p/w bradycardia and hypotension in setting of
   likely beta blocker or calcium channel blocker overdose.
   .
   #Atrial Fibrillation: Cardioverted initially on [**2-9**], sinus rhythm for
   12 hours, then reverted back to afib.  Began amiodarone [**2-10**], now on
   PO and s/p successful re-cardioversion yesterday,
, but converted in
   AM to afib.  Now supratherapeutic on coumadin in the setting of
   amiodarone/abx. Metoprolol was changed to long acting this AM, but
   having SOB.
   - hold Coumadin
   - continue  Amiodarone 400mg PO BID
   - change BB tomorrow to dilt 30mg Q6H in effort to decrease resp side
   effects from BB
   .
   #Respiratory status: s/p successful extubation
, now with good O2 Sat
   on 4L nasal cannula.
   - wean O2 as tolerated
   .
   #Hypervolemia: Persistent upper extremity pitting edema and crackles in
   lungs. Required 40 mg IV lasix last night.
   - lasix 40 IV this afternoon if not at goal, but will give with
   potassium
   - goal negative 1-2L
   .
   #Altered mental status:  Patient has been agitated and confused this
   morning in the setting of having stopped sedation yesterday with
   extubation.  She is intermittently re-directable, responding well to IV
   haldol and ativan last night.  Intermitienly refusing PO meds.
   Differential includes infection, electrolyte imbalance, hypoxia,
   alcohol withdrawal.
   - redirect frequently
   - encourage family to be present and re-directing
   - haldol 2 mg IV PRN
   - convert PO to IV meds if she continues to refuse
   - ativan PRN at night, low dose
   .
   #Acid Base: Non-Ag metabolic acidosis resolving. Likely from [**Month/Day (4) **]
   and increased saline administration.
   .
   #ID: Multiple sources of infection, including  sputum with pansensitive
   Klebsiella, on azithro and ctx for CAP.  UA on admission growing VRE,
   on linezolid.  Also positive for C.Diff, on PO vanc and IV flagyl.
   Having [**Month/Day (4) **] Q30min
   - continue ceftriaxone day [**7-18**]
   - azithromycin day [**6-15**], will d/c today
   - continue inezolid, ending [**2-16**], day [**6-17**]
   - continue IV flagyl, PO vancomycin, day 4
   - f/u blood Cx, esp in setting of confusion
   .
   # CORONARIES:  No history of CAD. Precordial ST depressions present on
   ekg upon admission to CCU.  Likely subendocardial ischemia in setting
   of hypotension and low systemic diastolic pressures.  CE were neagive
   .
   # PUMP: echo on with normal systolic function, no LVH, diastolic
   disfuction
   - continue diuresis
   .
   #Anemia: iron deficiency anemia. Stool guaiac negative
   -Fe 350mg PO TID
   .
   #Hyperlipidemia: lipitor was held for transaminitis. Now resolved
   - restart lipitor
   .
   #FEN:  NPO, replete K, Mg, PO4
   ACCESS: PIV's, and RIJ placed in ED [**2-7**], has art line
   PROPHYLAXIS:
   -DVT pneumoboots,  INR 2.4
   -Pain managment with fentanyl
   -Bowel regimen  colace, senna
   CODE: full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2134-2-7**] 06:52 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:  PPI
   VAP:  on abx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: awaiting improvement in MS [**First Name (Titles) **] [**Last Name (Titles) **] before transfer to
   the floor

2134-02-15 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - orderd 5mg zyprexa in PM to give before ativan, instead of haldol
   - K was 2.7 in AM- had 80IV K, then 40 IV with lasix, then later K was
   3.2, then repleted with 80 of KCl
   - changed BB to CCB to start today
   - started diet, placed swallow c/s- pt okay to advance diet, but needs
   supervision while eating
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2134-2-12**] 08:00 AM
   Vancomycin - [**2134-2-14**] 12:00 PM
   Ceftriaxone - [**2134-2-14**] 12:15 PM
   Metronidazole - [**2134-2-15**] 04:00 AM
   Linezolid - [**2134-2-15**] 05:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-2-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-2-15**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 103 (91 - 107) bpm
   BP: 145/55(78) {104/48(64) - 158/88(102)} mmHg
   RR: 21 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  2,144 mL
                                                                    550 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,664 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  4,290 mL
                                                                    265 mL
   Urine:
                                                                  4,290 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,146 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GENERAL: WDWN elderly female lying in bed, intermittently agitated and
   argumentative
   HEENT: NCAT. Sclera anicteric. Pupils dilated to 6mm and reactive.
   Contarct repalcment lenses in place. Oral mucosa dry.
   NECK: JVP unable to assess given RIJ.
   CARDIAC: irregular rhythm.  Normal S1, S2. No m/r/g. No thrills, lifts.
   No S3 or S4.
   LUNGS: No chest wall deformities, unlabored respirations, crackles
   diffusely.
   ABDOMEN: Soft, nontender.  Bowel sounds normoactive.
   EXTREMITIES: Symmetrical upper extremity minimal nonpitting edema.  1+
   LE edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  DP and PT 1+
   Left: Carotid 2+  DP and PT 1+
   Labs / Radiology
   417 K/uL
   8.3 g/dL
   125 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   13 mg/dL
   104 mEq/L
   138 mEq/L
   23.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2134-2-12**]  12:29 AM
                             [**2134-2-12**]  05:56 AM
                             [**2134-2-12**]  12:30 PM
                             [**2134-2-12**]  04:55 PM
                             [**2134-2-13**]  05:20 AM
                             [**2134-2-13**]  04:18 PM
                             [**2134-2-14**]  02:58 AM
                             [**2134-2-14**]  04:54 AM
                             [**2134-2-14**]  05:44 PM
                             [**2134-2-15**]  04:46 AM
   WBC
   9.1
   11.8
   11.3
   8.1
   8.9
   Hct
   24.0
   25.6
   27.0
   23.0
   26.0
   23.9
   Plt
   [**Telephone/Fax (3) 3768**]51
   417
   Cr
   1.2
   1.2
   1.2
   1.2
   1.4
   1.2
   1.2
   1.1
   TCO2
   23
   22
   Glucose
   102
   158
   159
   128
   [**Telephone/Fax (2) 3787**]25
   Other labs: PT / PTT / INR:33.3/28.1/3.5, CK / CKMB /
   Troponin-T:45//<0.01, ALT / AST:25/16, Alk Phos / T Bili:70/0.2, Lactic
   Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:166 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 BRADYCARDIA
 SHOCK, SEPTIC
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 LEUKOCYTOSIS
 HYPOGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   82F w/ pmh HTN, afib, p/w bradycardia and hypotension in setting of
   likely beta blocker or calcium channel blocker overdose.
   .
   #Atrial Fibrillation: Cardioverted initially on [**2-9**], sinus rhythm for
   12 hours, then reverted back to afib.  Began amiodarone [**2-10**], now on
   PO and s/p successful re-cardioversion yesterday,
, but converted in
   AM to afib.  Now supratherapeutic on coumadin in the setting of
   amiodarone/abx. Metoprolol was changed to long acting this AM, but
   having SOB.
   - hold Coumadin
   - continue  Amiodarone 400mg PO BID
   - change BB changed to dilt in effort to decrease resp side effects
   from BB
   .
   #Respiratory status: s/p successful extubation
, now with good O2 Sat
   on 4L nasal cannula.
   - wean O2 as tolerated
   .
   #Hypervolemia: Persistent upper extremity pitting edema and crackles in
   lungs. Required 40 mg IV lasix yesterday.
   - lasix 40 IV this afternoon if not at goal, but will give with
   potassium
   - goal negative 1-2L
   .
   #Altered mental status:  Patient has been agitated and confused in the
   setting of having stopped sedation after extubation.  She is
   re-directable, responding well to zyprexa instead of IV haldol.
   Intermitienly refusing PO meds before on haldol.  Differential includes
   infection, electrolyte imbalance, and hypoxia.
   - redirect frequently
   - encourage family to be present and re-directing
   - zyprexa 5mg PRN
   - hold ativan (was on low dose at night)
   .
   #Acid Base: Non-Ag metabolic acidosis resolving. Likely from diarrhea
   and increased saline administration.
   .
   #ID: Multiple sources of infection, including  sputum with pansensitive
   Klebsiella, on azithro and ctx for CAP.  UA on admission growing VRE,
   on linezolid.  Also positive for C.Diff, on PO vanc and IV flagyl.
   Having less diarrhea.
   - last day of ceftriaxone ,day [**8-17**]
   - azithromycin  5 d course completed already
   - continue inezolid, ending [**2-16**], day [**7-18**]
   - continue PO vancomycin and switch to PO flagyl, day 4
   - f/u blood Cx
   .
   # CORONARIES:  No history of CAD. Precordial ST depressions present on
   ekg upon admission to CCU.  Likely subendocardial ischemia in setting
   of hypotension and low systemic diastolic pressures.  CE were neagive
   .
   # PUMP: echo on with normal systolic function, no LVH, diastolic
   disfuction
   - continue diuresis
   .
   #Anemia: iron deficiency anemia. Stool guaiac negative
   -Fe 350mg PO TID
   .
   #Hyperlipidemia: lipitor was held for transaminitis. Now resolved
   - restart lipitor
   .
   #FEN:  NPO, replete K, Mg, PO4
   ACCESS: PIV's, and RIJ placed in ED [**2-7**], has art line, will try to
   place PIV for floor transfer
   PROPHYLAXIS:
   -DVT pneumoboots,  INR theraputic
   -Pain managment with fentanyl
   -Bowel regimen  colace, senna
   CODE: full
   DISPO: call out to Farf 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-2-7**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: